US04994482
A mixture of ethyl 3,4,5-triphenyl-lH-pyrazol-1-octanoate (3 g, 6.4 mmol), 3 N aqueous sodium hydroxide solution (6.4 mL, 19 mmol) and methanol (40 mL) was heated on a steam bath for 25 minutes before being cooled and concentrated in vacuo. The residue was diluted with water (25 mL) and 2 N hydrochloric acid solution added until pH =1. The mixture was extracted with dichloromethane and the combined extracts washed with water and saturated NaCl solution before being dried over sodium sulfate. Removal of the solvent left an oil that slowly crystallized. Recrystallization from a mixture of hexane and dichloromethane (2:1) afforded 3,4,5-triphenyl-lH-pyrazol1-octanoic acid hydrate (1.19 g, 42%); m.p. =97.5°-99.5° C. MS(CI): m/e =439 (MH+).

reactant | ethyl 3,4,5-triphenyl-lH-pyrazol-1-octanoate | 6.4 mmol, 3 g | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCC(=O)OCC | C31H34N2O2
reactant | sodium hydroxide | 19 mmol, 3 N, 6.4 mL | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 3,4,5-triphenyl-lH-pyrazol1-octanoic acid hydrate | 1.19 g, 42% | O.C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCC(=O)O | InChI=1S/C29H30N2O2.H2O/c32-26(33)21-13-2-1-3-14-22-31-29(25-19-11-6-12-20-25)27(23-15-7-4-8-16-23)28(30-31)24-17-9-5-10-18-24;/h4-12,15-20H,1-3,13-14,21-22H2,(H,32,33);1H2
